US07956084B2
d) N-[4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenyl]acetamide
N-(4-Bromo-3-hydroxyphenyl)acetamide (19.4 g), anhydrous potassium carbonate (25.6 g), 1-(2 chloroethyl)piperidine hydrochloride (15.78 g) and acetone (400 ml) were heated at reflux for 18 h, filtered and evaporated to dryness to give the product as a solid (17.48 g).

reactant | N-(4-Bromo-3-hydroxyphenyl)acetamide | 19.4 g | BrC1=C(C=C(C=C1)NC(C)=O)O | C8H8BrNO2
reactant | potassium carbonate | 25.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2 chloroethyl)piperidine hydrochloride | 15.78 g | Cl.ClCCN1CCCCC1
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | N-[4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenyl]acetamide | 17.48 g | BrC1=C(C=C(C=C1)NC(C)=O)OCCN1CCCCC1 | C15H21BrN2O2
